US05120884
3-Chloroperoxybenzoic acid (0.66 g) was added to a solution of benzocyclobutene aldehyde (0.2 g) in methylene chloride (10 mL) at 0° C. The mixture was stirred for 30 minutes at 0° C. and then warmed to room temperature. Stirring was continued for 12 hours at room temperature. Potassium floride (0.3 g) was added and stirring continued for an additional two hours. The reaction mixture was filtered, washed with sodium bisulfite solution and the solvent was removed by flash column chromatography. Liquid chromatographic analysis found a yield to hydroxy benzocyclobutene of approximately 55 percent and no benzocyclobutene carboxylic acid, with the balance comprising unidentified materials characterized as undesired product.

reactant | 3-Chloroperoxybenzoic acid | 0.66 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | benzocyclobutene aldehyde | 0.2 g | C1(=CC2=C1C=CC=C2)C=O | C9H6O
reactant | Potassium floride | 0.3 g | [F-].[K+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | hydroxy benzocyclobutene | OC1CC=2C1=CC=CC2 | C8H8O
